US04499079
To a mixture of 2-(phenylmethylene)butanedioic acid, 1-mono(phenylmethyl) ester (5.5 g., 18.6 mmole) and L-alanyl-L-proline, phenylmethyl ester, tosylate salt (8.3 g., 18.6 mmole) in tetrahydrofuran (200 ml.) are added diisopropylethylamine (3.23 ml., 18.6 mmole), dicyclohexylcarbodiimide (3.8 g., 18.6 mmole) and 1-hydroxybenzotriazole hydrate (2.5 g., 18.6 mmole). The resulting mixture is stirred at 25° for 24 hours, after which it is concentrated by rotary evaporation. Ethyl acetate is added to the residue and the resulting solution is filtered, washed sequentially with 1N hydrochloric acid and 10% aqueous sodium bicarbonate, dried and concentrated. The residue is dissolved in ether, filtered, and reconcentrated to give a dark green oil (9 g.). Flash chromatography of this material (LP-1, 1:1 hexane:ethyl acetate) gives 4.0 g. of 1-[N-[1,4-dioxo-4-(phenylmethoxy)-3-(phenylmethylene)butyl]-L-alanyl]-L-proline, phenylmethyl ester as the major product.

reactant | 2-(phenylmethylene)butanedioic acid, 1-mono(phenylmethyl) ester | 18.6 mmole, 5.5 g | C1(=CC=CC=C1)C=C(C(=O)OCC1=CC=CC=C1)CC(=O)[O-]
reactant | diisopropylethylamine | 18.6 mmole, 3.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dicyclohexylcarbodiimide | 18.6 mmole, 3.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole hydrate | 18.6 mmole, 2.5 g | O.ON1N=NC2=C1C=CC=C2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | LP-1 | C1=CC=C2C(=C1)C(=O)C=C(O2)C(=O)O | C10H6O4
